US06482829B2
3-(1H-Benzoimidazol-2-yl-methyl)-8-(3,5-bis-trifluoromethyl-benzoyl)-1-o-tolyl-1,3,8-triaza-spiro[4.5]decane-2,4-dione
The title compound, MS: m/e=630.0 (M+H+), was prepared in accordance with the general method of example 99 from 8-(3,5-bis-trifluoromethyl-benzoyl)-1-o-tolyl-1,3,8-triaza-spiro[4.5]decane-2,4-dione and 2-(chloromethyl)-benzimidazole.

reactant | 8-(3,5-bis-trifluoromethyl-benzoyl)-1-o-tolyl-1,3,8-triaza-spiro[4.5]decane-2,4-dione | FC(C=1C=C(C(=O)N2CCC3(C(NC(N3C3=C(C=CC=C3)C)=O)=O)CC2)C=C(C1)C(F)(F)F)(F)F | C23H19F6N3O3
reactant | 2-(chloromethyl)-benzimidazole | ClCC=1NC2=C(N1)C=CC=C2 | C8H7ClN2
product | 3-(1H-Benzoimidazol-2-yl-methyl)-8-(3,5-bis-trifluoromethyl-benzoyl)-1-o-tolyl-1,3,8-triaza-spiro[4.5]decane-2,4-dione | N1C(=NC2=C1C=CC=C2)CN2C(N(C1(C2=O)CCN(CC1)C(C1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)=O)C1=C(C=CC=C1)C)=O | C31H25F6N5O3
